US06054445
4-Formyl-1-[(2-pyridyl)acetyl]-2-(R,S)-[(1-pyrrolidinyl)methyl]piperazine hydrochloride
The compound was prepared by coupling of 2-pyridinylacetic acid with 4-formyl-2-(R,S)-[(1-pyrrolidinyl)methyl]piperazine; mp: (HCl salt) 125-128° C.; 1H NMR (free base, 200 MHz, CDCl3) δ1.5-1.7 (4 H, m), 2.1-3.6 (10 H, m), 3.7-4.9 (5 H, m), 6.9-7.3 (2 H, m), 7.6 (1 H, m), 8.0 (1 H, m), 8.6 (1 H, m); MS (FAB) 317 (M+H)+ ; Anal. Calcd. for C17H24N4O2.2HCl.NH4Cl: C, 46.11; H, 6.83; N, 15.82. Found: C, 46.37; H, 6.51; N, 16.35.

reactant | 2-pyridinylacetic acid | N1=C(C=CC=C1)CC(=O)O | C7H7NO2
reactant | 4-formyl-2-(R,S)-[(1-pyrrolidinyl)methyl]piperazine | C(=O)N1CC(NCC1)CN1CCCC1 | C10H19N3O
reactant | HCl | Cl | ClH
reactant | NH4Cl | [NH4+].[Cl-]
product | 4-Formyl-1-[(2-pyridyl)acetyl]-2-(R,S)-[(1-pyrrolidinyl)methyl]piperazine hydrochloride | Cl.C(=O)N1CC(N(CC1)C(CC1=NC=CC=C1)=O)CN1CCCC1 | InChI=1S/C17H24N4O2.ClH/c22-14-20-9-10-21(16(13-20)12-19-7-3-4-8-19)17(23)11-15-5-1-2-6-18-15;/h1-2,5-6,14,16H,3-4,7-13H2;1H
